* Check DC

*----------------------------------------------------------------
* Include
*----------------------------------------------------------------
.include ../../models/ptm_130.spi

*----------------------------------------------------------------
* Options
*----------------------------------------------------------------
.option TNOM=27 GMIN=1e-20 reltol=1e-10 abstol=1e-10



*----------------------------------------------------------------
* Sources
*----------------------------------------------------------------

V2 VSS 0 dc 0
V1 VDD 0 dc 1.5

I1 VDD VDN0 dc 1u
VM VDN0 VDN dc 0

VO1 IDN1 0 dc 0.48 ac 1
VO2 IDN2 0 dc 0.48 ac 1
VO3 IDN3 0 dc 0.48 ac 1

*----------------------------------------------------------------
* DUT
*----------------------------------------------------------------
.include cm.cir
X1 VDN IDN1 IDN2 IDN3 VSS CMIRR

*----------------------------------------------------------------
* Analysis
*----------------------------------------------------------------
.ac dec 50 1 10k

.defwave ro1 = 1/i(vo1)
.defwave ro2 = 1/i(vo2)
.defwave ro3 = 1/i(vo3)

.plot ac v(ro1) v(ro2) v(ro3) im(vo1) im(vo2) im(vo3) v(er1) v(er2) v(er3)
